US06407111B1
b) N-[2-Benzoyl-4-(4-methyl-piperazin-1-yl)-phenyl]-2,2-dimethyl-propionamide
A solution of 1.375 g (5 mmol) of 2,2-dimethyl-N-[4-(4-methyl-piperazin-1-yl)-phenyl]-propionamide was dissolved in 25 ml tetrahydrofuran and cooled to −70° C. Under argon 7.8 ml (12.5 mmol) of a 1.6 M n-butyl lithium solution in hexane was added slowly at this temperature. The cooling bath was removed and the mixture was stirred for 3 h at room temperature. The reaction mixture was cooled down again to −70° C. and a solution of 1.234 g N-methoxy-N-methyl benzamide (7.2 mmol) in 5 ml tetrahydrofuran was added slowly at −70° C. After 10 min the cooling bath was removed and stirring was continued at room temperature for 1 hour. Water (50 ml) was added to quench the reaction and the mixture was extracted with diethylether (three times 50 ml). The organic layer was dried with magnesium sulfate and evaporated to give a brown oil, which was purified by flash chromatography with dichloromethane/methanol to yield 315 mg (17%) of the product as a light orange solid.

reactant | 2,2-dimethyl-N-[4-(4-methyl-piperazin-1-yl)-phenyl]-propionamide | 5 mmol, 1.375 g | CC(C(=O)NC1=CC=C(C=C1)N1CCN(CC1)C)(C)C | C16H25N3O
reactant | n-butyl lithium | 1.6 M | C(CCC)[Li]
reactant | N-methoxy-N-methyl benzamide | 7.2 mmol, 1.234 g | CON(C(C1=CC=CC=C1)=O)C | C9H11NO2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-[2-Benzoyl-4-(4-methyl-piperazin-1-yl)-phenyl]-2,2-dimethyl-propionamide | 315 mg, 17% | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)N1CCN(CC1)C)NC(C(C)(C)C)=O | C23H29N3O2
